US08957203B2
Preparation of 3-methyltetrahydrofuran-3-yl pyridin-2-yl carbonate
To a suspension of sodium hydride, 60% in mineral oil (185 mg, 4.63 mmol) in THF (20 mL) was added 3-methyltetrahydrofuran-3-ol (394 mg, 3.86 mmol) at 0° C. After stirring 30 min, the solution was transferred to a solution of di(pyridin-2-yl)carbonate (834 mg, 3.86 mmol) in THF (20 mL) through a cannula. The formed slurry was stirred at 0° C. for 30 min. The slurry was warmed to rt and stirred for 2 h. The reaction was diluted with EtOAc, washed with brine, dried over MgSO4, filtered, concentrated to give a residue that was purified by Biotage (5-40% EtOAc:Hex) to afford the desired product 3-methyltetrahydrofuran-3-yl pyridin-2-yl carbonate (334 mg, 38.8% yield) as an oil. 1H NMR (400 MHz, CHLOROFORM-d) δ 8.48-8.29 (m, 1H), 7.91-7.73 (m, 1H), 7.29-7.25 (m, 1H), 7.16-7.12 (m, 1H), 4.23 (d, J=10.3 Hz, 1H), 4.02 (td, J=8.5, 7.2 Hz, 1H), 3.95 (td, J=8.4, 4.5 Hz, 1H), 3.76 (d, J=10.3 Hz, 1H), 2.58-2.47 (m, 1H), 2.11-2.02 (m, 1H), 1.76 (s, 3H).

reactant | sodium hydride | [H-].[Na+]
reactant | 3-methyltetrahydrofuran-3-ol | 3.86 mmol, 394 mg | CC1(COCC1)O | C5H10O2
reactant | di(pyridin-2-yl)carbonate | 3.86 mmol, 834 mg | N1=C(C=CC=C1)OC(OC1=NC=CC=C1)=O | C11H8N2O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-methyltetrahydrofuran-3-yl pyridin-2-yl carbonate | 334 mg, 38.8% yield | C(OC1(COCC1)C)(OC1=NC=CC=C1)=O | C11H13NO4
